US08222263B2
A mixture of 2-chloro-4-phenylquinazoline (200 mg, 0.83 mmol) and methyl 4-amino-3-methylbenzoate (137 mg, 0.83 mmol) in n-butanol was heated to 160° C. for 1 h and then cooled to rt. Water (10 mL) was added and the product collected by filtration to give the methyl 3-methyl-4-(4-phenylquinazolin-2-ylamino)benzoate (244 mg, 79%), which was dissolved in a 1:1 mixture of water and methanol (10 mL) containing sodium hydroxide (100 mg, 2.5 mmol). The mixture was heated to 60° C. overnight. Ethyl acetate (100 mL) was added and the phases were separated. The aqueous layer was acidified with 10% aqueous hydrochloric acid and extracted with ethyl acetate. The organic extracts were dried over sodium sulfate, filtered and concentrated on a rotary evaporator to give 3-methyl-4-(4-phenylquinazolin-2-ylamino)benzoic acid (188 mg, 80%).

reactant | 2-chloro-4-phenylquinazoline | 0.83 mmol, 200 mg | ClC1=NC2=CC=CC=C2C(=N1)C1=CC=CC=C1 | C14H9ClN2
reactant | methyl 4-amino-3-methylbenzoate | 0.83 mmol, 137 mg | NC1=C(C=C(C(=O)OC)C=C1)C | C9H11NO2
reactant | Water | 10 mL | O | H2O
solvent | n-butanol | C(CCC)O | C4H10O
product | methyl 3-methyl-4-(4-phenylquinazolin-2-ylamino)benzoate | 244 mg, 79% | CC=1C=C(C(=O)OC)C=CC1NC1=NC2=CC=CC=C2C(=N1)C1=CC=CC=C1 | C23H19N3O2
